US06184404B2
Preparation of neophyl zinc iodide:
In a round flask including nitrogen preparation, internal thermometer and septum cap, which was heated in a vacuum and rinsed with argon, zinc powder (1.57 g, 24.0 mmol) was covered with a layer of THF (6 ml) and presented, and 1,2-dibromomethane (0.2 ml) was slowly added dropwise from a single-use syringe with cannula. Upon addition, heating was effected by means of a hot-air blast until the solvent was slightly boiling. After the reaction mixture was cooled to room temperature, trimethylsilylchloride (0.2 ml) was slowly added dropwise. By means of a hot-air blast, the mixture was again heated until it was slightly boiling, and stirring was continued for 5 minutes. Subsequently, 1-(2-iodo-1,1-dimethylethyl)benzene (neophyl iodide, 1.56 g, 6.0 mmol) was added within 5 minutes. Upon completion of the addition, the mixture was heated to 50° C. for 3 hours. The zinc insertion was observed by means of a GC analysis via iodolysis and hydrolysis of an aliquot of the reaction mixture.

reactant | zinc | 24.0 mmol, 1.57 g | [Zn] | Zn
reactant | 1,2-dibromomethane | 0.2 ml | C(CBr)Br | C2H4Br2
reactant | trimethylsilylchloride | 0.2 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 1-(2-iodo-1,1-dimethylethyl)benzene | 6.0 mmol, 1.56 g | ICC(C)(C)C1=CC=CC=C1 | C10H13I
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | neophyl zinc iodide | [I-].C(C(C)(C)C1=CC=CC=C1)[Zn+] | InChI=1S/C10H13.HI.Zn/c1-10(2,3)9-7-5-4-6-8-9;;/h4-8H,1H2,2-3H3;1H;/q;;+1/p-1
